US08426447B2
A vial was charged with (S)-2′-amino-3-(3-methoxy-3-methylbut-1-ynyl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazole]-7-yl trifluoromethanesulfonate (104 mg, 0.210 mmol), pyridin-3-ylboronic acid (77 mg, 0.629 mmol), and tetrakis(triphenylphosphine)palladium (24.22 mg, 0.021 mmol). The vial was purged with Ar (g), then DMF (1048 μL) and potassium carbonate (524 μL, 1.048 mmol) (as a 2.0 M aq. solution) were added in sequence. The vial was capped and heated in a Biotage Initiator microwave reactor for 1.5 h at 70° C. The mixture was diluted with water (10 mL) and extracted with EtOAc (2×10 mL). The combined organic extracts were dried over sodium sulfate, filtered, and evaporated. The residue was purified by chromatography on a 25-g SNAP column, eluting with 0-60% of a 90:10:1 mixture of DCM/MeOH/NH4OH in DCM to give (S)-3-(3-methoxy-3-methylbut-1-ynyl)-7-(pyridin-3-yl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-2′-amine.

reactant | (S)-2′-amino-3-(3-methoxy-3-methylbut-1-ynyl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazole]-7-yl trifluoromethanesulfonate | 0.210 mmol, 104 mg | FC(S(=O)(=O)OC=1C=C2C(=CC1)OC1=NC=C(C=C1[C@@]21N=C(OC1)N)C#CC(C)(C)OC)(F)F | C21H18F3N3O6S
reactant | pyridin-3-ylboronic acid | 0.629 mmol, 77 mg | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | DMF | 1048 μL | CN(C)C=O | C3H7NO
reactant | potassium carbonate | 1.048 mmol, 524 μL | C([O-])([O-])=O.[K+].[K+]
solvent | water | 10 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 0.021 mmol, 24.22 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (S)-3-(3-methoxy-3-methylbut-1-ynyl)-7-(pyridin-3-yl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-2′-amine | COC(C#CC=1C=C2C(=NC1)OC1=CC=C(C=C1[C@]21N=C(OC1)N)C=1C=NC=CC1)(C)C | C25H22N4O3
